US08242104B2
4-Formyl-3-hydroxybenzoic acid (5 g, 30 mmol) was suspended in methanol (70 mL), and treated with thionyl chloride (3.29 mL 45 mmol) dropwise. The mixture was heated to reflux overnight. Concentrated to dryness, and 50 mL of toluene was added, and concentrated again. The residue was recrystallized from ethyl acetate-hexane. A total of 4.8 g (85%) of methyl 4-formyl-3-hydroxybenzoate was obtained.

reactant | 4-Formyl-3-hydroxybenzoic acid | 30 mmol, 5 g | C(=O)C1=C(C=C(C(=O)O)C=C1)O | C8H6O4
reactant | thionyl chloride | 45 mmol, 3.29 mL | S(=O)(Cl)Cl | Cl2OS
reactant | methanol | 70 mL | CO | CH4O
product | methyl 4-formyl-3-hydroxybenzoate | 4.8 g, 85% | C(=O)C1=C(C=C(C(=O)OC)C=C1)O | C9H8O4
